US06610704B1
Preparation of N1-(4-Methoxybenzoyl)-N2-[4-(4-morpholinyl)benzyl]-1,2-benzenediamine
4-(4-Morpholinyl)benzyl alcohol (150 mg, 0.78 mmol) was added to a solution of phosgene in toluene (1.93 M, 1.2 mL). After 4 h, the mixture was treated with a solution of N1-(4-methoxybenzoyl)-1,2-benzenediamine (188 mg, 0.78 mmol) and pyridine (2 mL) in methylene chloride (3 mL). After 16 h, the mixture was concentrated and the residue was dissolved in EtOAc. The organic layer was washed with water (4×), brine (1×), dried with potassium carbonate, and concentrated. The residue was purified by chromatography (SiO2, 5 to 15% EtOAc in CH2Cl2), yielding 45 mg (14%) of the title compound.

reactant | 4-(4-Morpholinyl)benzyl alcohol | 0.78 mmol, 150 mg | N1(CCOCC1)C1=CC=C(CO)C=C1 | C11H15NO2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine | 0.78 mmol, 188 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 1.93 M, 1.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N1-(4-Methoxybenzoyl)-N2-[4-(4-morpholinyl)benzyl]-1,2-benzenediamine | 45 mg, 14% | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NCC2=CC=C(C=C2)N2CCOCC2)C=C1 | C25H27N3O3
